US07109186B2
Compound 68: 4-{[(4-Hydroxy-1-methyl-5-oxo-2,5-dihydro-1H-pyrrole-3-carbonyl)-methoxy-amino]-methyl}-benzoic acid
A solution of 4-{[(4-hydroxy-1-methyl-5-oxo-2,5-dihydro-1H-pyrrole-3-carbonyl)-methoxyamino]-methyl}-benzoic acid tert-butyl ester (0.062 g, 0.16 mmol) in dichloromethane (3 ml) was treated with trifluoroacetic acid (0.6 ml) and stirred at 25° C. for 2 h. The solvent was then evaporated in vacuo and the residue was triturated with acetonitrile to give 0.041 g (80% yield) of the title material as a white solid; mp 196–197° C. 1HNMR 400 MHz (DMSO-d6) δ (ppm): 2.97 (3H, s, NCH3), 3.73 (3H, s, OCH3), 4.19 (2H, s, NCH2), 4.96 (2H, s, NCH2), 7.42 (2H, d, J=8.3 Hz, aromatics), 7.91 (2H, d, J=8.3 Hz, aromatics), 11.4 (1H, broad s, OH), 12.9 (1H, broad s, OH). Anal. calcd for C15H16N2O6.H2O: C, 53.25; H, 5.36; N, 8.28. Found: C, 53.59; H, 4.79; N, 8.19.

reactant | 4-{[(4-hydroxy-1-methyl-5-oxo-2,5-dihydro-1H-pyrrole-3-carbonyl)-methoxyamino]-methyl}-benzoic acid tert-butyl ester | 0.16 mmol, 0.062 g | C(C)(C)(C)OC(C1=CC=C(C=C1)CN(OC)C(=O)C=1CN(C(C1O)=O)C)=O | C19H24N2O6
reactant | trifluoroacetic acid | 0.6 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | 4-{[(4-Hydroxy-1-methyl-5-oxo-2,5-dihydro-1H-pyrrole-3-carbonyl)-methoxy-amino]-methyl}-benzoic acid | 0.041 g, 80% yield | OC1=C(CN(C1=O)C)C(=O)N(OC)CC1=CC=C(C(=O)O)C=C1 | C15H16N2O6
